US07538123B2
(4) Synthesis of 1-(piperidin-4-yl)-1H-indole-6-carboxamide
43 g of benzyl 4-(6-carbamoyl-1H-indol-1-yl)piperidin-1-carboxylate was suspended in a mixed solution consisting of 400 ml of methanol and 600 ml of tetrahydrofuran. Thereafter, 3.3 g of 10% palladium carbon was added thereto. This suspension was substituted by hydrogen, and it was then stirred at room temperature. After completion of the reaction, 10% palladium carbon was filtered off from the reaction solution, and the reaction solution was then concentrated under a reduced pressure. Tetrahydrofuran was added to the residue, and the obtained mixture was concentrated again under a reduced pressure. Tetrahydrofuran was added to the generated residue, followed by stirring, so as to solidify the subject compound. Thereafter, tetrahydrofuran and ether were added thereto, followed by cooling on ice. The solidified subject compound was collected by filtration. The generated filtrate was concentrated, and thus, the subject compound was obtained in the same above manner. The total amount of the subject compounds was 25.2 g.

reactant | benzyl 4-(6-carbamoyl-1H-indol-1-yl)piperidin-1-carboxylate | 43 g | C(N)(=O)C1=CC=C2C=CN(C2=C1)C1CCN(CC1)C(=O)OCC1=CC=CC=C1 | C22H23N3O3
reactant | methanol | 400 ml | CO | CH4O
reactant | hydrogen | [H][H] | H2
catalyst | palladium carbon | 3.3 g | [C].[Pd]
solvent | tetrahydrofuran | 600 ml | O1CCCC1 | C4H8O
product | 1-(piperidin-4-yl)-1H-indole-6-carboxamide | N1CCC(CC1)N1C=CC2=CC=C(C=C12)C(=O)N | C14H17N3O
